data/oMe_Silver.jsonl
{"reaction_id": "NR-102_1-C(C)(C)C_2-c1ccccc1_3-c1ccc2ccccc2c1","level": "medium","name": "Hantzsch Thiazole Synthesis","reactants_smiles": ["C(C(C)(C)C)(=S)N","C(c1ccc2ccccc2c1)(=O)C(c1ccccc1)Cl"],"products_smiles": ["C(C)(C)Cc1nc(c1ccc2ccccc2c1)c(c1ccccc1)s1"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C(C)(C)C)(=[NH2+])SC(c1ccccc1)C(c1ccc2ccccc2c1)(=O)","step_weight": 0,"rationale": "The thioamide nitrogen is nucleophilic due to resonance with the C=S group, attacking the electrophilic α-carbon of the haloketone, where the carbon is activated by the adjacent electron-withdrawing carbonyl."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)(=N)SC(c1ccccc1)C(c1ccc2ccccc2c1)(=[OH+])","step_weight": 0,"rationale": "Proton transfer neutralizes the nitrogen and protonates the carbonyl oxygen, increasing electrophilicity for subsequent nucleophilic attack and stabilizing the intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)CC1=[NH+]C(c1ccc2ccccc2c1)(O)C(c1ccccc1)S1","step_weight": 0,"rationale": "The deprotonated nitrogen attacks the protonated carbonyl carbon intramolecularly, favored by proximity and the electrophilicity enhanced by protonation, initiating ring closure."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)CC1=NC(c1ccc2ccccc2c1)([OH2+])C(c1ccccc1)S1","step_weight": 0,"rationale": "Proton transfer from the hydroxyl group to a leaving group site prepares the intermediate for elimination, stabilizing the developing positive charge on oxygen."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)(C)Cc1nc(c1ccc2ccccc2c1)c(c1ccccc1)s1","step_weight": 0,"rationale": "Elimination of water occurs, driven by formation of the aromatic thiazole ring, which is thermodynamically favored due to aromatic stabilization."}],"description": "The reaction proceeds via nucleophilic substitution of the thioamide nitrogen onto the α-haloketone, followed by proton transfers and cyclization to form the thiazole ring. Acid-base steps facilitate intermediate stability, and elimination yields the aromatic heterocycle."}
{"reaction_id": "NR-106_1-C1CCCCC1_2-c1ccc(OC(F)(F)F)cc1_3-C(F)(F)F_4-c1ccc(Br)cc1","level": "medium","name": "Henry Reaction","reactants_smiles": ["C(C1CCCCC1)(c1ccc(OC(F)(F)F)cc1)[N+](=O)[O-]","C(C(F)(F)F)(c1ccc(Br)cc1)=O","[OH-]"],"products_smiles": ["C(C(F)(F)F)(c1ccc(Br)cc1)(O)C(C1CCCCC1)(c1ccc(OC(F)(F)F)cc1)[N+](=O)[O-]"],"conditions": "Base","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(c1ccc(OC(F)(F)F)cc1)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The base abstracts the acidic α-proton next to the nitro group, as the resulting nitronate anion is resonance-stabilized by delocalization onto the electron-withdrawing nitro group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(F)(F)F)(c1ccc(Br)cc1)([O-])C(C1CCCCC1)(c1ccc(OC(F)(F)F)cc1)[N+](=O)[O-]","step_weight": 0,"rationale": "The nucleophilic nitronate carbon attacks the electrophilic carbonyl carbon, favored by the strong polarization of the C=O bond and minimal steric hindrance at the carbonyl center."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)(c1ccc(Br)cc1)(O)C(C1CCCCC1)(c1ccc(OC(F)(F)F)cc1)[N+](=O)[O-]","step_weight": 0,"rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, driven by the strong thermodynamic preference for neutral alcohol formation."}],"description": "Under basic conditions, the α-proton of the nitroalkane is deprotonated to form a resonance-stabilized nitronate anion, which then nucleophilically attacks the carbonyl carbon of the aldehyde/ketone. Subsequent protonation of the alkoxide yields the β-nitro alcohol product."}
